US04709064
There were added 0.015 ml of quinoline and 1.5 ml of petroleum ether to 103 mg (0.30 mmol) of 1-benzyl-4(S)-ethynyl-3(S)-[1(R)-t-butyldimethysilyloxyethyl]-2-azetidinone, to which 1.5 mg of Lindlar catalyst was added. The mixture was vigorously stirred at room temperature for 12 hours under hydrogen atmosphere. The reaction solution was filtered and the filtrate was concentrated, to which 2 ml of petroleum ether and 3 mg of Lindlar catalyst were added and the reaction was continued for 36 hours under hydrogen atmosphere. The reaction solution was subjected to silica-gel (10 g) column-chromatography (eluent; benzene:methylene chloride=1:1) to give a partially reduced product including the starting material, which was employed in the following reaction without further purification. The partially reduced product including the starting material was dissolved in 2 ml of THF, to which 1.1 ml (0.63 mmol) of a THF solution of 9-BBN (0.6 M) was added while cooling with an ice bath. After the mixture was stirred in the ice bath for 1 hour, 0.5 ml (0.3 mmol) of a THF solution of 9-BBN (0.6 M) was added to the mixture and was stirred for 2 hours in the ice bath and then for 1 hour at room temperature. There were added 0.56 ml (2.3 mmol) of 4 N sodium hydroxide and 0.4 ml of 31% aqueous solution of hydroperoxide to the obtained reaction mixture on the ice bath and the resultant was stirred at room temperature for 1 hour. The reaction solution was diluted with diethyl ether, added with water and extracted three times with diethyl ether. The extract was washed with an aqueous solution of dilute sodium thiosulfate and then with a saturated aqueous solution of sodium chloride, dried with anhydrous magnesium sulfate and concentrated. The obtained residue was purified by 10 g of silica-gel column-chromatography (eluent; diethyl ether:hexane=3:1→5:1) to give 70 mg of 1-benzyl-3(S)-[1(R)-t-butyldimethylsilyloxyethyl]-4(R)-(2-hydroxyethyl)-2-azetidinone.

reactant | quinoline | 0.015 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | 1-benzyl-4(S)-ethynyl-3(S)-[1(R)-t-butyldimethysilyloxyethyl]-2-azetidinone | 0.30 mmol, 103 mg | C(C1=CC=CC=C1)N1C([C@@H]([C@H]1C#C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C20H29NO2Si
reactant | 9-BBN | 0.6 M | B1C2CCCC1CCC2 | C8H15B
reactant | 9-BBN | 0.6 M | B1C2CCCC1CCC2 | C8H15B
reactant | sodium hydroxide | 2.3 mmol, 4 N, 0.56 ml | [OH-].[Na+]
reactant | hydroperoxide | [O-]O
catalyst | Lindlar catalyst | 1.5 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 0.3 mmol, 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.63 mmol, 1.1 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-benzyl-3(S)-[1(R)-t-butyldimethylsilyloxyethyl]-4(R)-(2-hydroxyethyl)-2-azetidinone | 70 mg, Yield: 64% | C(C1=CC=CC=C1)N1C([C@@H]([C@H]1CCO)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C20H33NO3Si
